US08980913B2
Step 2: (R)-Quinuclidin-3-yl((S)-(3-((4-((2-(1,3-dioxolan-2-yl)ethyl)(benzyl)-carbamoyl)benzyl)oxy)phenyl)(phenyl)methyl)carbamate
Triethylamine (0.278 mL, 2.00 mmol) was added to a solution of 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoic acid (0.418 g, 0.80 mmol) in DMF (2 mL). This mixture was stirred at room temperature for 5 minutes and then 2-hydroxypyridine-N-oxide (0.107 g, 0.96 mmol) and EDC (0.184 g, 0.96 mmol) and the mixture stirred for a further 10 minutes. A solution of N-benzyl-2-(1,3-dioxolan-2-yl)ethanamine (0.331 g, 1.6 mmol) in DMF (2 mL) was added. The reaction mixture was heated at 40° C. for 4 hours followed by stirring at room temperature for 48 hours. The reaction mixture was diluted with ethyl acetate and washed with 10% aqueous potassium carbonate and twice with brine. The organic phase was dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 100% ethyl acetate to 8% methanolic ammonia/ethyl acetate to afford the title compound (0.471 g, 87%). The material was used in the next step with no further characterisation.

reactant | Triethylamine | 2.00 mmol, 0.278 mL | C(C)N(CC)CC | C6H15N
reactant | 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoic acid | 0.80 mmol, 0.418 g | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
reactant | 2-hydroxypyridine-N-oxide | 0.96 mmol, 0.107 g | OC1=[N+](C=CC=C1)[O-] | C5H5NO2
reactant | EDC | 0.96 mmol, 0.184 g
reactant | N-benzyl-2-(1,3-dioxolan-2-yl)ethanamine | 1.6 mmol, 0.331 g | C(C1=CC=CC=C1)NCCC1OCCO1 | C12H17NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Quinuclidin-3-yl((S)-(3-((4-((2-(1,3-dioxolan-2-yl)ethyl)(benzyl)-carbamoyl)benzyl)oxy)phenyl)(phenyl)methyl)carbamate | 0.471 g, 87% | N12C[C@@H](C(CC1)CC2)OC(N[C@@H](C2=CC=CC=C2)C2=CC(=CC=C2)OCC2=CC=C(C=C2)C(N(CC2=CC=CC=C2)CCC2OCCO2)=O)=O | C41H45N3O6
